US08445505B2
To a solution of 4-(5-chloro-4-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylbenzoic acid (35.0 mg, 0.077 mmol) in DMF (0.5 mL) was added HATU (29.1 mg, 0.077 mmol), DIEA (26.7 μL, 0.153 mmol) and N1,N1-dimethylethane-1,2-diamine (25.2 μL, 0.230 mmol). The reaction mixture was stirred at room temperature overnight. 1N HCl aqueous solution (0.5 mL) was then added and the reaction mixture was heated at 100° C. for 1.5 hours to remove the tetrahydro-2H-pyran-2-yl protecting group. The mixture was purified by preparative RP-HPLC to provide 4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-N-(2-(dimethylamino)ethyl)-2,5-dimethylbenzamide; ESMS m/z 443.2 (M+H+).

reactant | 4-(5-chloro-4-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylbenzoic acid | 0.077 mmol, 35.0 mg | ClC=1C(=NC(=NC1)NC1=CC(=C(C(=O)O)C=C1C)C)NC1=NN(C(=C1)C)C1OCCCC1 | C22H25ClN6O3
reactant | HATU | 0.077 mmol, 29.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.153 mmol, 26.7 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N1,N1-dimethylethane-1,2-diamine | 0.230 mmol, 25.2 μL | CN(CCN)C | C4H12N2
reactant | HCl | 1N, 0.5 mL | Cl | ClH
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-N-(2-(dimethylamino)ethyl)-2,5-dimethylbenzamide | ClC=1C(=NC(=NC1)NC1=CC(=C(C(=O)NCCN(C)C)C=C1C)C)NC1=NNC(=C1)C | C21H27ClN8O
